US07910740B2
{5-[(2-Methoxy-ethylamino)-methyl]-thiazol-2-yl}-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine
The title compound was prepared in analogy to example 57 from 14 mg (0.19 mmol) 2-methoxyethylamine and 65 mg (0.21 mmol) 2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazole-5-carbaldehyde using a solvent mixture of tetrahydrofurane (2 ml), and methylene chloride (1 ml). The reaction was not complete and the same amount of reagent was added like in example 57. The crude product was purified on silica gel with methylene chloride/methanol 9/1 yielding 47 mg (54%) {5-[(2-methoxy-ethylamino)-methyl]-thiazol-2-yl}-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine as a yellow oil. MS ISP (m/e): 374.2 (100) (M+H)+. 1H NMR (CDCl3, 250 MHz): δ (ppm)=7.64 (s, 1H), 7.26 (s, 1H), 7.18 (d, 1H), 7.12 (s, 1H), 6.95 (d, 1H), 6.87 (s, 1H), 3.93 (s, 2H), 3.85 (s, 3H), 3.51 (t, 2H), 3.36 (s, 3H), 2.83 (t, 2H), 2.30 (s, 3H).

reactant | 2-methoxyethylamine | 0.19 mmol, 14 mg | COCCN | C3H9NO
reactant | 2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazole-5-carbaldehyde | 0.21 mmol, 65 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC=1SC(=CN1)C=O | C15H14N4O2S
reactant | tetrahydrofurane | 2 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | {5-[(2-Methoxy-ethylamino)-methyl]-thiazol-2-yl}-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | COCCNCC1=CN=C(S1)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C18H23N5O2S
